US07851473B2
N-Phenyl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (1.00 g, 4.06 mmol) and triethylamine (0.565 ml, 4.06 mmol) in tetrahydrofuran (20 ml) was added, under ice-cooling, phenyl isocyanate (0.529 ml, 4.87 mmol), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added diisopropyl ether (40 ml), and the solid was separated by filtration. The resulting solid was recrystallized from a mixed solvent of hexane and ethyl acetate to give 1.19 g (80.4%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 4.06 mmol, 1.00 g | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 4.06 mmol, 0.565 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 4.87 mmol, 0.529 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | diisopropyl ether | 40 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-Phenyl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 1.19 g, 80.4% | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H19N5OS
